US08614215B2
4-methoxy-2-({3-[(pyridin-3-ylsulfonyl)amino]quinoxalin-2-yl}amino)benzoic acid
Methyl-4-methoxy-2-({3-[(pyridin-3-ylsulfonyl)amino]quinoxalin-2-yl}amino)benzoate (2200 mg; 4.73 mmol; 1 eq) and K2CO3 (8.5 g; 61.44 mmol; 13 eq) are taken up in MeOH (100 mL) and water (25 mL) and heated up to 60° C. overnight. The reaction mixture is concentrated to half the volume and some black residue is removed by filtration. The clear solution is neutralised with aqueous citric acid 10%. After 1 h at 4° C., the precipitate formed is filtered off and washed with water. After drying under vacuum at 40° C. overnight, it affords 2.01 g (94%) of the title compound as a yellow powder. 1H NMR (DMSO-d6) δ 13.17 (s, 1H), 12.49 (br s, 1H), 12.27 (s, 1H), 9.25 (d, J=1.9 Hz, 1H), 9.08 (d, J=2.6 Hz, 1H), 8.81-8.79 (m, 1H), 8.47-8.43 (m, 1H), 7.98 (d, J=9.0 Hz, 1H), 7.93 (br s, 1H), 7.68-7.60 (m, 2H), 7.44-7.40 (m, 2H), 6.70 (dd, J=8.7, 2.6 Hz, 1H), 3.91 (s, 3H). HPLC (max plot) 99%; Rt 4.04 min. LC/MS: (ES+): 452.3, (ES−): 450.3.

reactant | Methyl-4-methoxy-2-({3-[(pyridin-3-ylsulfonyl)amino]quinoxalin-2-yl}amino)benzoate | 4.73 mmol, 2200 mg, 1 eq | COC(C1=C(C=C(C=C1)OC)NC1=NC2=CC=CC=C2N=C1NS(=O)(=O)C=1C=NC=CC1)=O | C22H19N5O5S
reactant | K2CO3 | 61.44 mmol, 8.5 g, 13 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 25 mL | O | H2O
solvent | MeOH | 100 mL | CO | CH4O
product | 4-methoxy-2-({3-[(pyridin-3-ylsulfonyl)amino]quinoxalin-2-yl}amino)benzoic acid | 2.01 g, 94% | COC1=CC(=C(C(=O)O)C=C1)NC1=NC2=CC=CC=C2N=C1NS(=O)(=O)C=1C=NC=CC1 | C21H17N5O5S
